US07514566B2
N-(5-Bromo-thiazol-2-yl)-acetamide) (442.0 mg, 2.0 mmol), (S)-2-(1-hydroxy-3-phenylpropan-2-yl)isoindoline-1,3-dione (281.0 mg, 1.0 mmol), triphenylphosphine (303.0 mg, 1.5 mmol) and THF (15.0 mL) were charged into a 100 mL round bottom flask. The resulting reaction mixture was a suspension. The flask was immersed in an ice-water bath. After stirring for 15 minutes under nitrogen, a solution of DIAD (421.5 mg, 1.5 mmol) in 3.0 mL THF was slowly added to the flask through a syringe. The reaction mixture became a clear solution after the addition was complete. After 10 minutes, the reaction mixture was brought to room temperature by removing the ice water bath and the stirring was continued for 16 hours. THF was evaporated off, and the residue was diluted with 40 mL saturated sodium bicarbonate and extracted with DCM (75 mL×2). The residue was subjected to a silica gel column chromatography purification with hexane-EtOAc (7:3) as the eluant to afford a compound as a white solid (S)-N-(5-bromothiazol-2-yl)-N-(2-(1,3-dioxoisoindolin-2-yl)-3-phenylpropyl)acetamide (20 mg, yield 17%). LCMS (API-ES) m/z (%): 484.0 (100%, M++H).

reactant | N-(5-Bromo-thiazol-2-yl)-acetamide | BrC1=CN=C(S1)NC(C)=O | C5H5BrN2OS
reactant | (S)-2-(1-hydroxy-3-phenylpropan-2-yl)isoindoline-1,3-dione | 1.0 mmol, 281.0 mg | OC[C@H](CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H15NO3
reactant | triphenylphosphine | 1.5 mmol, 303.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.5 mmol, 421.5 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
product | (S)-N-(5-bromothiazol-2-yl)-N-(2-(1,3-dioxoisoindolin-2-yl)-3-phenylpropyl)acetamide | 20 mg, yield 17% | BrC1=CN=C(S1)N(C(C)=O)C[C@H](CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C22H18BrN3O3S
